US20010016207A1
D. N-[1-(Cyanomethyl-carbamoyl)-cyclohexyl]-4-(1-cyclopentyl-piperidin-4-yl)-benzamide
1-Amino-cyclohexanecarboxylic acid cyanomethyl-amide (0.74 mmol), 4-(1-cyclopentyl-piperidin-4-yl)-benzoic acid hydrochloride (0.74 mmol), HOBT (0.74 mmol), WSCD (0.74 mmol) and triethylamine (0.74 mmol) are dissolved in DMF (5 ml) and stirred overnight at rt. After evaporation of the solvent, the residue is dissolved in a mixture of water and sodium carbonate (to ensure basic conditions) and extracted three times with ethyl acetate. The combined extract is dried over sodium sulfate and evaporated. The residue is suspended in diethylether and the solid filtered of and dried (vacuum). A white powder with mp. 233-234° C., Rf=0.34 (CH2Cl2/MeOH (with 3N NH3)=9:1) is obtained.

reactant | 1-Amino-cyclohexanecarboxylic acid cyanomethyl-amide | 0.74 mmol | C(#N)CNC(=O)C1(CCCCC1)N | C9H15N3O
reactant | 4-(1-cyclopentyl-piperidin-4-yl)-benzoic acid hydrochloride | 0.74 mmol | Cl.C1(CCCC1)N1CCC(CC1)C1=CC=C(C(=O)O)C=C1
reactant | HOBT | 0.74 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.74 mmol | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[1-(Cyanomethyl-carbamoyl)-cyclohexyl]-4-(1-cyclopentyl-piperidin-4-yl)-benzamide | C(#N)CNC(=O)C1(CCCCC1)NC(C1=CC=C(C=C1)C1CCN(CC1)C1CCCC1)=O | C26H36N4O2
